US07179807B2
Tetrakis(triphenylphosphine)palladium(0) (100 mg) and potassium carbonate (2.0 M, 2.0 mL) are added to a stirred solution of (5-bromo-6-methoxypyrazin-2-yl)[(4-methoxyphenyl)methyl]amine (0.80 g, 2.50 mmol) and 2-methoxy-4-trifluoromethoxy benzeneboronic acid (1.75 g, 7.5 mmol) in toluene (25 mL). The mixture is heated to 85 C for 8 hours, cooled to room temperature, diluted with 2.0 M sodium hydroxide and extracted twice with 1:1 hexane-ethyl ether. The combined extracts are dried (sodium sulfate), filtered and concentrated. The residue is purified by flash chromatography, eluting with 60% hexanes in ether to give {6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2yl}[(4-methoxyphenyl)methyl]amine (967 mg).

reactant | potassium carbonate | 2.0 M, 2.0 mL | C([O-])([O-])=O.[K+].[K+]
reactant | (5-bromo-6-methoxypyrazin-2-yl)[(4-methoxyphenyl)methyl]amine | 2.50 mmol, 0.80 g | BrC=1N=CC(=NC1OC)NCC1=CC=C(C=C1)OC | C13H14BrN3O2
reactant | 2-methoxy-4-trifluoromethoxy benzeneboronic acid | 7.5 mmol, 1.75 g | COC1=C(C=CC(=C1)OC(F)(F)F)B(O)O | C8H8BF3O4
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 2.0 M | [OH-].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {6-methoxy-5-[2-methoxy-4-(trifluoromethoxy)phenyl]pyrazin-2yl}[(4-methoxyphenyl)methyl]amine | 967 mg | COC1=C(N=CC(=N1)NCC1=CC=C(C=C1)OC)C1=C(C=C(C=C1)OC(F)(F)F)OC | C21H20F3N3O4
